US05256675
A solution of 2-acetamido-5-(4-aminophenylthio)thiazole (3.2 g) in pyridine (64 ml) was added methanesulfonyl chloride (1.52 g) at 5° C. with stirring. The reaction mixture was stirred for 3 hours at 5° C. and concentrated in vacuo to give solid. The solid was subject to column chromatography on silica gel (silica gel, 70-230 mesh; Merck: 200 g) and eluted with a mixture of chloroform and methanol (50:1) and eluted with a mixture of chloroform and methanol (20:1). The fractions containing the objective compound were combined and evaporated to dryness in vacuo to give 2-acetamido-5-(4-methanesulfonylaminophenylthio)thiazole (4.0 g, yield: 96.6%). mp: 236°-239° C.

reactant | 2-acetamido-5-(4-aminophenylthio)thiazole | 3.2 g | C(C)(=O)NC=1SC(=CN1)SC1=CC=C(C=C1)N | C11H11N3OS2
reactant | methanesulfonyl chloride | 1.52 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | pyridine | 64 ml | N1=CC=CC=C1 | C5H5N
product | 2-acetamido-5-(4-methanesulfonylaminophenylthio)thiazole | 4.0 g, yield: 96.6% | C(C)(=O)NC=1SC(=CN1)SC1=CC=C(C=C1)NS(=O)(=O)C | C12H13N3O3S3
